US06448205B1
3-Chloro-2-(4-chloro-2-fluoro-5-methoxyphenyl)-5-methylsulfinylpyridine
4.6 g of 2,3-dichloro-5-methylsulfinylpyridine, 4.5 g of 4-chloro-2-fluoro-5-methoxybenzeneboronic acid, 5.5 g of sodium hydrogen carbonate and 1.0 g of tetrakis(triphenylphosphine)palladium(0) were refluxed for 180 hours in a mixture of 100 ml of water and 100 ml of tetrahdyrofuran. After the tetrahydrofuran has been evaporated, the residue was extracted four times with in each case 70 ml of MTB. The combined organic phases were then dried over sodium sulfate and finally concentrated. The resulting oil was purified by means of chromatography on silica gel (eluent: cyclohexane/MTB=7:3→1:1 and cyclohexane/ethyl acetate=2:1). Stirring this purified oil with diethyl ether gave 2.2 g (30%) of white crystals.; m.p.: 117-118° C.

reactant | 2,3-dichloro-5-methylsulfinylpyridine | 4.6 g | ClC1=NC=C(C=C1Cl)S(=O)C | C6H5Cl2NOS
reactant | 4-chloro-2-fluoro-5-methoxybenzeneboronic acid | 4.5 g | ClC1=CC(=C(C=C1OC)B(O)O)F | C7H7BClFO3
reactant | sodium hydrogen carbonate | 5.5 g | C(O)([O-])=O.[Na+]
solvent | water | 100 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 1.0 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-Chloro-2-(4-chloro-2-fluoro-5-methoxyphenyl)-5-methylsulfinylpyridine | 2.2 g, 30% | ClC=1C(=NC=C(C1)S(=O)C)C1=C(C=C(C(=C1)OC)Cl)F | C13H10Cl2FNO2S
